US07211672B2
(2S,4R)-3-(4-{4-[Acetyl-(4-chloro-phenyl)-amino]-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl}-phenyl)-propionic acid (C-32)
(2S,4R)-3-(4-{4-[Acetyl-(4-chloro-phenyl)-amino]-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl}-phenyl)-propionic acid was prepared from (2S,4R)-3-(4-{4-[acetyl-(4-chloro-phenyl)-amino]-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl}-phenyl)-acrylic acid. A solution of (2S,4R)-3-(4-{4-[acetyl-(4-chloro-phenyl)-amino]-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl}-phenyl)-acrylic acid (50 mg, 0.102 mmol) in EtOH (2 ml) and CH2Cl2 (10 drops for solubility) was subjected to Pd—C (10%, ca. 50 mg) and 1 atm H2 gas. After 1 hour, the mixture was filtered, concentrated and subjected to silica gel chromatography (2% MeOH in EtOAc to 10% MeOH in EtOAc), to afford the title compound (50 mg, 99%).

reactant | (2S,4R)-3-(4-{4-[acetyl-(4-chloro-phenyl)-amino]-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl}-phenyl)-acrylic acid | C(C)(=O)N([C@@H]1C[C@@H](N(C2=CC=CC=C12)C(=O)C1=CC=C(C=C1)C=CC(=O)O)C)C1=CC=C(C=C1)Cl | C28H25ClN2O4
reactant | (2S,4R)-3-(4-{4-[acetyl-(4-chloro-phenyl)-amino]-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl}-phenyl)-acrylic acid | 0.102 mmol, 50 mg | C(C)(=O)N([C@@H]1C[C@@H](N(C2=CC=CC=C12)C(=O)C1=CC=C(C=C1)C=CC(=O)O)C)C1=CC=C(C=C1)Cl | C28H25ClN2O4
solvent | EtOH | 2 ml | CCO | C2H6O
catalyst | CH2Cl2 | 10 drops | C(Cl)Cl | CH2Cl2
catalyst | Pd—C | ca. 50 mg | [Pd] | Pd
product | (2S,4R)-3-(4-{4-[Acetyl-(4-chloro-phenyl)-amino]-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl}-phenyl)-propionic acid | 50 mg, 99% | C(C)(=O)N([C@@H]1C[C@@H](N(C2=CC=CC=C12)C(=O)C1=CC=C(C=C1)CCC(=O)O)C)C1=CC=C(C=C1)Cl | C28H27ClN2O4
